US09227986B2
Synthesis of 3,5-dibromo-5′-methyl-2,2′-bithiophene (16)
N-Bromosuccinimide (15.55 g, 87 mmol) was added portionwise to stirred solution of 3-bromo-5′-methyl-2,2′-bithiophene (20.56 g, 79 mmol) in glacial acetic acid (200 mL) containing acetic anhydride (25 mL) at RT. The mixture was stirred and monitored by TLC. After completion (1.5 h) the reaction was diluted with water (200 mL) and the oily phase was taken into ether and separated. The aqueous phase was extracted with ether. The combined organic phases were washed with 1 M NaOH solution followed by water. Removal of the solvent left a solidifying oil, which was sonicated in methanol yielding after filtration and drying 3,5-dibromo-5′-methyl-2,2′-bithiophene as off-white solid (single spot on TLC). Yield: 20.6 g (77%). 1H NMR (600 MHz, CD2Cl2) ppm 7.13 (d, J=3.6 Hz, 1H), 6.97 (s, 1H), 6.74-6.72 (m, 1H), 2.48-2.47 (m, 3H)

reactant | N-Bromosuccinimide | 87 mmol, 15.55 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-bromo-5′-methyl-2,2′-bithiophene | 79 mmol, 20.56 g | BrC1=C(SC=C1)C=1SC(=CC1)C | C9H7BrS2
reactant | acetic anhydride | 25 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | ether | CCOCC | C4H10O
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | water | 200 mL | O | H2O
product | 3,5-dibromo-5′-methyl-2,2′-bithiophene | BrC1=C(SC(=C1)Br)C=1SC(=CC1)C | C9H6Br2S2
